US07144885B2
Step 1: Preparation of Starting Material 3-hydroxy-5,6-dihydro-naphthalene-2-carbonitrile
To the suspension of 3-hydroxy-8-oxo-5,6,7,8-tetrahydronaphthalene-2-carbonitrile from (150 mg, 0.8 mmol) in 2 mL anhydrous THF was added 2M LiBH4 in THF (0.6 mL, 1.2 mmol, 1.5 eq) and 0.5 mL anhydrous methanol. The reaction was shaken at 40° C. for 2 h. To this was added 5 mL water and some 1N HCl until pH=2. The mixture was extracted with ethyl acetate 3 times and dried down with genavac at high temperature. The resulting dark liquid (about 100 mg) was used directly in the next step reaction.

reactant | 3-hydroxy-8-oxo-5,6,7,8-tetrahydronaphthalene-2-carbonitrile | OC=1C(=CC=2C(CCCC2C1)=O)C#N | C11H9NO2
reactant | LiBH4 | 2M | [Li+].[BH4-]
reactant | water | 5 mL | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | methanol | 0.5 mL | CO | CH4O
solvent | THF | 1.2 mmol, 0.6 mL, 1.5 eq | C1CCOC1 | C4H8O
product | 3-hydroxy-5,6-dihydro-naphthalene-2-carbonitrile | OC=1C(=CC=2C=CCCC2C1)C#N | C11H9NO
